US04372970
A mixture of 6-methylbenzofuran (3.44 g, 0.026 mol), N-bromosuccinimide (4.63 g, 0.026 mol), dibenzoyl peroxide (trace) and carbon tetrachloride (50 cm3) was refluxed for 5 hr. The mixture was filtered and the solvent was removed from the filtrate. The residue was distilled to give 6-bromomethylbenzofuran (4.38 g, 0.021 mol, 80.0%) b.p. 84°-88° C./0.7 mm Hg.

reactant | 6-methylbenzofuran | 0.026 mol, 3.44 g | CC1=CC2=C(C=CO2)C=C1 | C9H8O
reactant | N-bromosuccinimide | 0.026 mol, 4.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 cm3 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethylbenzofuran | 0.021 mol, 4.38 g, 80.0% | BrCC1=CC2=C(C=CO2)C=C1 | C9H7BrO
